US08115005B2
1-{2-[4-(3-Methyl-5-trifluoromethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine:
The title compound was prepared from 4-(3-Methyl-5-trifluoromethyl-pyrazol-1-yl)-phenol (0.1 g, 0.42 mmol) and 1-(2-chloroethyl)piperidine hydrochloride (0.16 g, 0.88 mmol) using the general procedure C with a yield of 55% (80 mg); 1H NMR (400 MHz, CDCl3) 7.33 (d, J=9.2 Hz, 2H), 6.98 (d, J=9.2 Hz, 2H), 6.43 (s, 1H), 4.15 (t, J=12, 6 Hz, 2H), 2.78 (t, J=12, 6 Hz, 2H), 2.53 (br, 4H), 1.61-1.47 (m, 6H); LC/MS (ESI): 94%.

reactant | 4-(3-Methyl-5-trifluoromethyl-pyrazol-1-yl)-phenol | 0.42 mmol, 0.1 g | CC1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)O | C11H9F3N2O
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.88 mmol, 0.16 g | Cl.ClCCN1CCCCC1
product | 1-{2-[4-(3-Methyl-5-trifluoromethyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine | yield of 55% | CC1=NN(C(=C1)C(F)(F)F)C1=CC=C(OCCN2CCCCC2)C=C1 | C18H22F3N3O
